US07253286B2
1-{2-Chloro-4-[6-(4-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-3-cyclopropylurea
After adding 2 ml of trifluoroacetic acid and 0.1 ml of thioanisole to 24 mg of 1-{4-[6-(4-benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenyl}-3-cyclopropylurea, the mixture was stirred at 45° C. for 30 minutes. The reaction mixture was concentrated under reduced pressure, saturated sodium bicarbonate water was added to alkalinity, and then liquid separation and extraction were performed with ethyl acetate and tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, concentrated and dried under reduced pressure to obtain 15 mg of the title compound.

reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | 0.1 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | 1-{4-[6-(4-benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenyl}-3-cyclopropylurea | 24 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)NC(=O)NC2CC2)Cl)N1 | C29H24ClN5O3
product | 1-{2-Chloro-4-[6-(4-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-3-cyclopropylurea | 15 mg | ClC1=C(C=CC(=C1)OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)O)NC(=O)NC2CC2 | C22H18ClN5O3
